US04032514
General procedure for the oxyalkylation of cyclic phenol-formaldehyde tetramers
Pure cyclic tetramer and 3 to 5% by weight of KOH, dissolved in an equal amount of water, are heated together with two to four times their weight of xylene, under azeotropic reflux, until catalyzation is complete and no more water can be removed. This usually takes from 3 to 6 hours depending upon the batch size. Since the tetramer is very poorly, if at all, soluble in the xylene, it is essential that efficient rapid stirring is applied to keep the very finely dispersed solid homogeneously distributed throughout the liquid. The mixture is then transferred to a pressure reactor or autoclave equipped with a means of external (electric) heating, internal cooling and efficient mechanical agitation. The resin is heated to 120°-140° C. and the alkyleneoxide or mixture of oxides is charged into the reactor until the pressure is 25-75 p.s.i. During the ensuing oxyalkylation reaction the original suspension gradually clears up and after all the oxide has been added and the reaction has been completed, which usually takes from 2 to 12 hours depending upon the nature of the reactants, the resulting product solution, the oxyalkylated derivative of the cyclic tetramer, now completely soluble in xylene, is cooled and ready to be applied for demulsifier use.

reactant | KOH | [OH-].[K+]
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | phenol-formaldehyde | C=O.C1(=CC=CC=C1)O | InChI=1S/C6H6O.CH2O/c7-6-4-2-1-3-5-6;1-2/h1-5,7H;1H2
